US07989633B2
Ethyl 5-acetyl-2-methyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-6-(trifluoromethyl)-1,4-dihydropyridine-3-carboxylate
A solution of 2.1 g (11.16 mmol) of 2-methyl-4-oxo-4H-chromene-8-carbaldehyde in 60 ml of 2-propanol is mixed with 1.44 g (11.16 mmol) of ethyl 3-aminocrotonate, 17.2 g (111.6 mmol) of 1,1,1-trifluoro-2,4-pentanedione and 0.96 ml (16.74 mmol) of acetic acid and stirred under reflux for 12 h. After cooling, the reaction mixture is concentrated and the residue is taken up in 30 ml of acetic acid and again stirred under reflux for 12 h. After cooling, the reaction mixture is concentrated, and the residue is purified by preparative HPLC. The product fractions are concentrated and purified again on an Analogix cartridge (mobile phase: cyclohexane/ethyl acetate 2:1). 0.212 g (4.4% of theory) of the title compound are obtained.

reactant | 2-methyl-4-oxo-4H-chromene-8-carbaldehyde | 11.16 mmol, 2.1 g | CC=1OC2=C(C=CC=C2C(C1)=O)C=O | C11H8O3
reactant | ethyl 3-aminocrotonate | 11.16 mmol, 1.44 g | N\C(=C/C(=O)OCC)\C | C6H11NO2
reactant | 1,1,1-trifluoro-2,4-pentanedione | 111.6 mmol, 17.2 g | FC(C(CC(C)=O)=O)(F)F | C5H5F3O2
reactant | acetic acid | 16.74 mmol, 0.96 ml | C(C)(=O)O | C2H4O2
solvent | 2-propanol | 60 ml | CC(C)O | C3H8O
product | Ethyl 5-acetyl-2-methyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-6-(trifluoromethyl)-1,4-dihydropyridine-3-carboxylate | C(C)(=O)C=1C(C(=C(NC1C(F)(F)F)C)C(=O)OCC)C=1C=CC=C2C(C=C(OC12)C)=O | C22H20F3NO5
